US07893267B2
0.3 g (1.5 mmol) of isoquinoline-3-carboxylic acid and 0.6 g (1.6 mmol) of HBTU were dissolved in 3.0 mL of DMF and 0.6 mL of DIEA and treated with 0.25 g (1.0 mmol) of 2-amino-6-ethoxy-7-fluoro-1H benzoimidazole-4-carboxylic acid methyl ester as described in general procedure A to produce 0.18 g (0.44 mmol, 44%) of 6-ethoxy-7-fluoro-2-[(isoquinoline-3-carbonyl)-amino]-3H-benzoimidazole-4-carboxylic acid methyl ester. LCMS: 409 (M+1)+.

reactant | isoquinoline-3-carboxylic acid | 1.5 mmol, 0.3 g | C1=NC(=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | HBTU | 1.6 mmol, 0.6 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.6 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-amino-6-ethoxy-7-fluoro-1H benzoimidazole-4-carboxylic acid methyl ester | 1.0 mmol, 0.25 g | COC(=O)C1=CC(=C(C=2NC(=NC21)N)F)OCC | C11H12FN3O3
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | 6-ethoxy-7-fluoro-2-[(isoquinoline-3-carbonyl)-amino]-3H-benzoimidazole-4-carboxylic acid methyl ester | 0.44 mmol, 0.18 g, 44% | COC(=O)C1=CC(=C(C=2N=C(NC21)NC(=O)C=2N=CC1=CC=CC=C1C2)F)OCC | C21H17FN4O4
